US04517187
To a stirred solution of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-aminophenyl)-2H-pyrazino[2,1-a]isoquinoline (6.0 g, 0.0205 m) in conc HCl (40 ml) maintained under nitrogen at 0° was added dropwise a solution of sodium nitrate (1.55 g, 0.0225 m) in water (10 ml) over a period of 30 minutes. The mixture was stirred an additional 15 minutes, then added dropwise to a solution of cuprous chloride (4.0 g, 0.04 m) in conc HCl (20 ml) maintained at 0°. After the addition was complete, the ice bath was removed and the mixture allowed to warm to ambient temperature and stirred for 3 hours, during which time nitrogen evolution was observed. The mixture was heated briefly to 60° for 3 minutes, then cooled and poured onto 1000 cc of ice/water, and treated with chloroform (300 ml), then basified to pH 11 with 50% NaOH. The mixture was stirred for 15 minutes, then a jelly-like precipitate removed by filtration through glass wool. The filtrate was transferred to a separatory funnel and the layers separated, the aqueous phase extracted with chloroform (2×100 ml), and the combined chloroform extracts dried and evaporated to a yellow oil, 5.84 g. This material was purified by chromatography on a Prep 500 HPLC on silica gel, eluting with 1.5% ammoniated methanol/chloroform. The pure fractions were combined and evaporated to an oil, 2.82 g. This was dissolved in methanol (30 ml) and acidified with HCl gas. Upon standing, a solid crystallized and was collected by filtration and vacuum dried at 90° for 24 hours to give 2.31 g of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-chlorophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 274°-276°.

reactant | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-aminophenyl)-2H-pyrazino[2,1-a]isoquinoline | 6.0 g | CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=C(C=C2)N)CC1 | C19H23N3
reactant | sodium nitrate | 1.55 g | [N+](=O)([O-])[O-].[Na+]
reactant | HCl | 40 ml | Cl | ClH
reactant | HCl | 20 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-chlorophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 2.31 g | Cl.Cl.CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=C(C=C2)Cl)CC1 | InChI=1S/C19H21ClN2.2ClH/c1-21-10-11-22-12-18(14-6-8-15(20)9-7-14)16-4-2-3-5-17(16)19(22)13-21;;/h2-9,18-19H,10-13H2,1H3;2*1H/t18-,19-;;/m0../s1
